US07501427B2
[2-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-quinazolin-6-ylimino}-3-(2,2,2,-trifluoro-ethyl)-oxazolidin-5-yl]-methanol
[2-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-quinazolin-6-ylimino}-3-(2,2,2-trifluoro-ethyl)-oxazolidin-5-yl]-methanol is prepared from N4-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-quinazoline-4,6-diamine. 1,1-Thiocarbonyldiimidazole (55 mg, 0.28 mmol) is added to a solution of N4-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-quinazoline-4,6-diamine (100 mg, 0.253 mmol) in 1:1 THF:DCE (1 ml). After 30 min, a 1:1 THF:DCE (1 ml) solution of 3-(2,2,2-trifluoro-ethylamino)-propane-1,2-diol (88 mg, 0.51 mmol) is added. After 16 h, the reaction mixture is concentrated and the resulting solid is suspended in Et2O and filtered. EDCI (110 mg, 0.560 mmol) and catalytic DMAP is added to a suspension of the solid thiourea in 1:1 THF:DCE (4 ml), After 6 h, an additional 200 mg EDCI is added and the reaction mixture is heated to 70° C. After 16 h, the reaction mixture is cooled to room temperature and diluted with water. The aqueous layer is extracted with EtOAc. The combined organic extracts are dried (Na2SO4) and concentrated. Purification on a silica gel column (EtOAc) yields the desired product as a yellow solid (10 mg, 7%0). MS ESI (+) m/z 576.2, 578.2 (M+1) detected; 1H NMR (400 MHz, DMSO-d4) δ 9.56 (s, 1 H), 8.47 (s, 1 H), 8.08 (d, 1 H), 7.94 (s, 1 H), 7.77 (m, 1 H), 7.62 (m, 2 H), 7.47 (m, 1 H), 7.32 (m, 2 H), 7.24 (d, 1 H) 7.19 (m, 1 H), 5.25 (s, 2 H), 5.19 (t, 1 H), 4.77 (br, I1 H), 3.77 (m, 1 H), 3.66 (m, 1 H), 3.55 (m, 2 H), 2.97 (m, 2 H).

reactant | N4-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-quinazoline-4,6-diamine | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)N | C21H16ClFN4O
reactant | 1,1-Thiocarbonyldiimidazole | 0.28 mmol, 55 mg | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | N4-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-quinazoline-4,6-diamine | 0.253 mmol, 100 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)N | C21H16ClFN4O
reactant | 3-(2,2,2-trifluoro-ethylamino)-propane-1,2-diol | 0.51 mmol, 88 mg | FC(CNCC(CO)O)(F)F | C5H10F3NO2
reactant | EDCI | 0.560 mmol, 110 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | thiourea | NC(=S)N | CH4N2S
reactant | EDCI | 200 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
solvent | DCE | 4 ml | ClCCCl | C2H4Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | DCE | 1 ml | ClCCCl | C2H4Cl2
solvent | DCE | 1 ml | ClCCCl | C2H4Cl2
product | [2-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-quinazolin-6-ylimino}-3-(2,2,2,-trifluoro-ethyl)-oxazolidin-5-yl]-methanol | 10 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)N=C1OC(CN1CC(F)(F)F)CO | C27H22ClF4N5O3
